US04159984
To a solution of 433 mg of benzyl α-(3ξ-chloroacetyl-2-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate dissolved in a mixture of 4 ml of methylene chloride and 4 ml of acetic acid is added 450 mg of zinc powder, and the mixture stirred at room temperature for 1 hour. The reaction mixture is filtrated and the filtrate diluted with water and extracted with methylene chloride. The extract is washed with water, dried and evaporated to yield 375 mg of benzyl α-(3ξ-acetyl-2-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate as an oily material in 98% yield.

reactant | benzyl α-(3ξ-chloroacetyl-2-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 433 mg | ClCC(=O)C1N(C2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)C(=O)OCC1=CC=CC=C1 | C26H25ClN2O7
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 450 mg | [Zn] | Zn
product | benzyl α-(3ξ-acetyl-2-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 375 mg, 98% yield | C(C)(=O)C1N(C2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)C(=O)OCC1=CC=CC=C1 | C26H26N2O7
